US06388088B1
A suspension of N-(4-bromo-2-nitro-phenyl)-acetamide (1.18 g, 4.55 mmol) in acetonitrile (25 mL) was cooled to 0° C. and then treated with sodium azide (838 mg, 13.65 mmol). The reaction mixture was then treated with trifluoromethanesulfonic anhydride (2.88 g, 10.25 mmol). The resulting reaction mixture was allowed to warm to 25° C. where it was stirred overnight, at which time, thin layer chromatography analysis of the reaction mixture indicated the absence of starting material. The reaction mixture was then concentrated in vacuo. The resulting residue was diluted with ethyl acetate (70 mL) and water (50 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×50 mL). The combined organic extracts were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 4/1 hexanes/ethyl acetate) afforded 1-(4-bromo-2-nitro-phenyl)-5-methyl-1H-tetrazole (1.16 g, 90%) as a white solid: mp 124-126° C.; EI-HRMS m/e calcd for C8H6BrN5O2 (M+) 282.9705, found 282.9700.

reactant | N-(4-bromo-2-nitro-phenyl)-acetamide | 4.55 mmol, 1.18 g | BrC1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-] | C8H7BrN2O3
reactant | sodium azide | 13.65 mmol, 838 mg | [N-]=[N+]=[N-].[Na+]
reactant | trifluoromethanesulfonic anhydride | 10.25 mmol, 2.88 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 1-(4-bromo-2-nitro-phenyl)-5-methyl-1H-tetrazole | 1.16 g, 90% | BrC1=CC(=C(C=C1)N1N=NN=C1C)[N+](=O)[O-] | C8H6BrN5O2
